US05589478
To a solution of tert-butyl 4-{2-{6-(4-tert-butylbenzenesulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy]ethoxy}phenoxyacetate (1.25 g) in dichloromethane (120 ml) are added anisole (2.09 g) and trifluoroacetic acid (20 ml) under ice-cooling. The mixture is stirred at room temperature for five hours, washed with water, and extracted with 10% aqueous sodium hydroxide solution. The aqueous layer is washed with chloroform, and acidified with 10% hydrochloric acid under ice-cooling. The mixture is extracted with ethyl acetate, and the extract is washed, dried, and evaporated to remove the solvent. The residue is crystallized from ethyl acetate/diisopropyl ether to give 4-{2-[6-(4-tert-butylbenzenesulfonylamino )-5-(4-methylphenyl)pyrimidin-4-yloxy]ethoxy}phenoxyacetic acid (1.14 g).

reactant | tert-butyl 4-{2-{6-(4-tert-butylbenzenesulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy]ethoxy}phenoxyacetate | 1.25 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)OCCOC1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C1=CC=C(C=C1)C | C35H41N3O7S
reactant | anisole | 2.09 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-{2-[6-(4-tert-butylbenzenesulfonylamino )-5-(4-methylphenyl)pyrimidin-4-yloxy]ethoxy}phenoxyacetic acid | 1.14 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)OCCOC1=CC=C(OCC(=O)O)C=C1)C1=CC=C(C=C1)C | C31H33N3O7S
